data/oMe_Silver.jsonl
{"reaction_id": "NR-131_1-C(=O)OCC_2-C(C)C_3-O[Si](C)(C)C(C)(C)C_4-c1ccc(C(F)(F)F)cc1","level": "medium","name": "Lemieux-Johnson Oxidation","reactants_smiles": ["C(C(=O)OCC)(C(C)C)=C(O[Si](C)(C)C(C)(C)C)(c1ccc(C(F)(F)F)cc1)"],"products_smiles": ["C(C(=O)OCC)(C(C)C)=O","C(O[Si](C)(C)C(C)(C)C)(c1ccc(C(F)(F)F)cc1)=O"],"conditions": "O=[Os](=O)(=O)=O, [Na+].[O-][I+3](=O)=O","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(C(=O)OCC)(C(C)C)O[Os](=O)(=O)OC1(O[Si](C)(C)C(C)(C)C)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "The electron-rich alkene π-bond reacts with electrophilic OsO4 in a concerted [3+2] cycloaddition, favored by strong osmium–oxygen electrophilicity and minimal steric hindrance, forming a stable cyclic osmate ester."},{"step": 2,"type": "pericyclic","subtype": "cycloreversion","intermediate_smiles": "C(O)(C(=O)OCC)(C(C)C)C(O)(O[Si](C)(C)C(C)(C)C)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Hydrolysis of the osmate ester occurs because osmium–oxygen bonds are labile in aqueous conditions, producing a vicinal diol stabilized by hydrogen bonding and relief of ring strain."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C1(C(=O)OCC)(C(C)C)O[I](=O)(=O)(O)OC1(O[Si](C)(C)C(C)(C)C)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Periodate acts as an electrophile toward the diol, forming a cyclic periodate ester driven by favorable overlap of oxygen lone pairs with iodine’s empty orbitals and the release of water."},{"step": 4,"type": "pericyclic","subtype": "cycloreversion","intermediate_smiles": "C(C(=O)OCC)(C(C)C)=O.C(O[Si](C)(C)C(C)(C)C)(c1ccc(C(F)(F)F)cc1)=O","step_weight": 0,"rationale": "The cyclic periodate ester undergoes C–C bond cleavage via cycloreversion, favored by the formation of two stable carbonyl groups and relief of ring strain in the intermediate."}],"description": "The alkene undergoes osmium tetroxide-mediated syn-dihydroxylation via a [3+2] cycloaddition, followed by oxidative cleavage with periodate. The cyclic osmate ester and periodate ester intermediates facilitate C–C bond cleavage, yielding two carbonyl compounds under mild oxidative conditions."}
{"reaction_id": "NR-321_1-C(C)(C)C_2-C(=O)OC_3-CCOC","level": "easy","name": "Williamson Ether Synthesis","reactants_smiles": ["OC(C)(C)C","BrC(C(=O)OC)CCOC","[Na][H]"],"products_smiles": ["C(OC(C)(C)C)(C(=O)OC)CCOC"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(C)(C)C","step_weight": 0,"rationale": "NaH acts as a strong base, abstracting the alcohol proton due to the high acidity of the O–H bond and forming a resonance-stabilized alkoxide anion."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(OC(C)(C)C)(C(=O)OC)CCOC","step_weight": 0,"rationale": "The alkoxide, being a strong nucleophile, attacks the electrophilic carbon of the alkyl bromide in an SN2 fashion, favored by the good leaving ability of bromide and minimal steric hindrance."}],"description": "In the Williamson ether synthesis, an alcohol is first deprotonated by a strong base to form an alkoxide, which is a strong nucleophile. This alkoxide then undergoes an SN2 reaction with an alkyl halide, yielding the ether product efficiently under mild conditions."}
